US07094908B2
Ethyl 2-(4,7-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (264 mg, 26%) in the same manner as described in the above example 6 (20) from ethyl 3-(4,7-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (1.13 g, 2.80 mmol) and p-toluenesulfonic acid monohydrate (100 mg), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-(4,7-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 2.80 mmol, 1.13 g | ClC1=C2C(N(C(C2=C(C=C1)Cl)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H17Cl2NO6
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 2-(4,7-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | ClC1=C2C(N(C(C2=C(C=C1)Cl)=O)CC(C(=O)OCC)C(C)=O)=O | C15H13Cl2NO5
